US07897762B2
A solution of ethyl 4,6-dichloronicotinate (10 g, 45.7 mmol) in tert-butylamine (100 mL) was stirred at 50° C. for 10 h. The solvent was removed under reduced pressure and the residue was suspended in H2O and extracted with EtOAc (3×100 mL). The organics were washed with brine, dried (MgSO4), concentrated in vacuo and purified by silica gel chromatography to provide ethyl 4-(tert-butylamino)-6-chloronicotinate (7 g, 60% yield). 1HNMR (400 MHz, DMSO-d6): δ 8.53 (s, 1 H), 8.39 (s, 1 H), 6.80 (s, 1 H), 4.25 (d, J=7.2 Hz, 2H), 1.37 (s, 9 H), 1.27 (t, J=7.2 Hz, 3 H).

reactant | ethyl 4,6-dichloronicotinate | 45.7 mmol, 10 g | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | tert-butylamine | 100 mL | C(C)(C)(C)N | C4H11N
product | ethyl 4-(tert-butylamino)-6-chloronicotinate | 7 g, 60% yield | C(C)(C)(C)NC1=CC(=NC=C1C(=O)OCC)Cl | C12H17ClN2O2
